US04389403
3.15 g (22.0 millimoles) of 2-methyl-thiazole-5-carboxylic acid are dissolved in 500 ml of absolute tetrahydrofuran and 50 ml of absolute dimethylsulfoxide, 3.6 g (22.2 millimoles) of N,N'-carbonyldiimidazole are added and the mixture is stirred for 45 minutes at room temperature. A solution of 5.0 g (21.7 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline in 100 ml of absolute tetrahydrofuran is then added dropwise and the mixture is stirred overnight at room temperature. The solvents are stripped off under reduced pressure on a rotary evaporator and the residue is stirred thoroughly with 100 ml of 0.5 percent strength sodium bicarbonate solution, whereupon crystallization occurs. The crystals are filtered off, washed with water and dried under reduced pressure, over a phosphorus pentoxide desiccant. 5.6 g of crude 1-(2-methylthiazol-5-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline are obtained and are recrystallized from isopropanol, giving 2.7 g of pure product, of melting point 183°-185° C.

reactant | 2-methyl-thiazole-5-carboxylic acid | 22.0 millimoles, 3.15 g | CC=1SC(=CN1)C(=O)O | C5H5NO2S
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 21.7 millimoles, 5.0 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-methylthiazol-5-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline | 5.6 g | CC=1SC(=CN1)C(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C14H12Cl2N4OS
